US05157119
In a 5 1 pot was charged 483 g of methyl 2-nitro-3-methylbenzoate, 319 g benzyl mercaptan and 100 mL dimethyl formamide. Upon cooling to 0° C., a solution of 321 g potassium tert-butoxide in 1500 mL dimethyl formamide was added dropwise over 2.5 hours at 0°-5° C. The reaction mixture was stirred at 0° C. for 1.5 hours and then at room temperature overnight. The reaction was quenched by addition of 1 1 water and worked up by extraction with 2 1 methylene chloride. Upon washing with water (3×1 1), the methylene chloride layer was dried over MgSO4, filtered and rotovapped to give 517 g of crude methyl 2-benzylthio-3-methylbenzoate (77% yield) as a liquid.

reactant | methyl 2-nitro-3-methylbenzoate | 483 g | [N+](=O)([O-])C1=C(C(=O)OC)C=CC=C1C | C9H9NO4
reactant | benzyl mercaptan | 319 g | C(C1=CC=CC=C1)S | C7H8S
reactant | potassium tert-butoxide | 321 g | CC(C)([O-])C.[K+]
solvent | dimethyl formamide | 1500 mL | CN(C=O)C | C3H7NO
solvent | dimethyl formamide | 100 mL | CN(C=O)C | C3H7NO
product | methyl 2-benzylthio-3-methylbenzoate | 517 g, 77% yield | C(C1=CC=CC=C1)SC1=C(C(=O)OC)C=CC=C1C | C16H16O2S
